US07566781B2
Methyl 4-[(E)-2-(6-methylpyridin-2-yl)vinyl]benzenecarboxylate
An acetic anhydride solution (100 mL) of 2,6-lutidine (65 g) and methyl 4-formylbenzenecarboxylate (20 g) was stirred overnight at 180° C. The reaction solution was poured into water with ice, and aqueous 5 N sodium hydroxide solution was added thereto until it became alkaline. The resulting mixture was extracted with ethyl acetate, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated off, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 4/1) to obtain the entitled compound (20.1 g).

reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,6-lutidine | 65 g | N1=C(C=CC=C1C)C | C7H9N
reactant | methyl 4-formylbenzenecarboxylate | 20 g | C(=O)C1=CC=C(C=C1)C(=O)OC | C9H8O3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | water | O | H2O
product | Methyl 4-[(E)-2-(6-methylpyridin-2-yl)vinyl]benzenecarboxylate | 20.1 g | CC1=CC=CC(=N1)/C=C/C1=CC=C(C=C1)C(=O)OC | C16H15NO2
